US04994460
1-(4-Fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinvl)-1-piperazinyl)-1-butyl acetate
A cold (5° C.) mixture of 1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanol monohydrochloride1 (3.0 g, 7.8 mmol) and Et3N (2.38 mL, 17.1 mmol) in CH2Cl2 (55 mL) was treated dropwise (10 min) with AcCl (0.67 mL, 9.4 mmol). The reaction mixture was stirred at 5° C. for 0.25 h and then at 23° C. for 2 h before being diluted with CH2Cl2 (250 mL). The organic solution was washed with water (30 mL), saturated Na2CO3 solution to bring pH to 9, water (20 mL) and brine, dried (MgSO4) and concentrated in vacuo to a solid which was purified on silica gel column using a mixture of 30-40% AcOEt in CH2Cl2. The appropriate fractions were collected and concentrated in vacuo to a white solid, 2.93 g, 96%. Recrystallization from ether-hexane mixture afforded analytical sample, mp 76°-7° C.

reactant | 1-(4-fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinyl)-1-piperazinyl)-1-butanol | FC1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=NC=C(C=N1)F)O | C18H22F2N4O
reactant | Et3N | 17.1 mmol, 2.38 mL | CCN(CC)CC | C6H15N
reactant | AcCl | 9.4 mmol, 0.67 mL | C(=O)(C)Cl | C2H3ClO
solvent | CH2Cl2 | 55 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluorophenyl)-4-(4-(5-fluoro-2-pyrimidinvl)-1-piperazinyl)-1-butyl acetate | C(C)(=O)OC(CCCN1CCN(CC1)C1=NC=C(C=N1)F)C1=CC=C(C=C1)F | C20H24F2N4O2
